** sch_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/test/VCO_selection.sch
.subckt VCO_selection gd VP after_000111 111 after_001111 110 101 f5 VCO_sel
*.PININFO gd:B VP:B after_000111:I 111:I after_001111:I 110:I 101:I f5:I VCO_sel:O
x11 VP gd after_000111 net1 111 NAND_2in
x12 VP gd after_001111 net2 110 NAND_2in
x13 VP gd 101 net3 f5 NAND_2in
x14 VP gd net1 VCO_sel net2 net3 NAND_3in
.ends

* expanding   symbol:  NAND_2in.sym # of pins=5
** sym_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/NAND_2in.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/NAND_2in.sch
.subckt NAND_2in VP GND a y b
*.PININFO y:O GND:B a:I VP:B b:I
MM1 y a net1 GND sg13_lv_nmos w=0.15u l=0.13u ng=1
MM3 net1 b GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1
MM2 y b VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1
MM4 y a VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1
.ends


* expanding   symbol:  NAND_3in.sym # of pins=6
** sym_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/NAND_3in.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/NAND_3in.sch
.subckt NAND_3in VP GND a y b c
*.PININFO y:O GND:B a:I VP:B b:I c:I
MM1 y a net2 GND sg13_lv_nmos w=0.15u l=0.13u ng=1
MM3 net2 b net1 GND sg13_lv_nmos w=0.15u l=0.13u ng=1
MM4 net1 c GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1
MM7 y c VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1
MM2 y a VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1
MM5 y b VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1
.ends

