** sch_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/XNOR.sch
.subckt XNOR VP GND a y b
*.PININFO y:O GND:B a:I VP:B b:I
MM1 y a net1 GND sg13_lv_nmos w=0.15u l=0.13u ng=1
MM3 net1 _b GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1
MM2 net2 a VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1 m=4
MM4 net3 _a VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1 m=4
MM5 y _a net4 GND sg13_lv_nmos w=0.15u l=0.13u ng=1
MM6 net4 b GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1
MM7 y b net2 VP sg13_lv_pmos w=0.15u l=0.13u ng=1 m=4
MM8 y _b net3 VP sg13_lv_pmos w=0.15u l=0.13u ng=1 m=4
x1 a _a VP GND inverter
x2 b _b VP GND inverter
.ends

* expanding   symbol:  inverter.sym # of pins=4
** sym_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/inverter.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/inverter.sch
.subckt inverter IN OUT VP GND
*.PININFO IN:I VP:B OUT:O GND:B
MM1 OUT IN GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1
MM2 OUT IN VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1
.ends

