** sch_path: /foss/designs/CHIP-PLL/schematics/PFD/PFD_CP_tb.sch
**.subckt PFD_CP_tb
Vref CRef_prebuf GND dc 0 ac 0 pulse(0 {Vph} {T/2} 10n 10n {T/2} {T})
Vco CVco GND dc 0 ac 0 pulse(1u {Vp} {dly} 10n 10n {T/2} {T})
Vp vp GND dc {Vp}
*  x2 -  buffer_hv  IS MISSING !!!!
C1 out GND 5p
x1 GND vp CRef UP DOWN CVco PFD_cell
x3 vp UP out DOWN GND charge_pump_cell
**** begin user architecture code
 .lib cornerMOSlv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerMOShv.lib mos_tt



.temp=25
.param T = 31.25u
.param dly=1u
.param Vp=1.2
.param Vph=3.3
.control
save all
tran 25n 200u

meas tran pw_up avg v(UP) from=100u to=200u
meas tran pw_down avg v(DOWN) from=100u to=200u
plot v(pw_up) v(pw_down) v(out)
write PFD_tb.raw
.endc


**** end user architecture code
**.ends

* expanding   symbol:  PFD_cell.sym # of pins=6
** sym_path: /foss/designs/CHIP-PLL/schematics/PFD/PFD_cell.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/PFD/PFD_cell.sch
.subckt PFD_cell gnd vp cRef UP DOWN cVco
*.iopin gnd
*.iopin vp
*.iopin DOWN
*.iopin UP
*.ipin cRef
*.ipin cVco
XM1 1 cVco 2 gnd sg13_lv_nmos w=0.6u l=0.15u ng=1 m=1 mm_ok=1
XM2 1 DOWN 2 gnd sg13_lv_nmos w=0.6u l=0.15u ng=1 m=1 mm_ok=1
XM3 2 cRef gnd gnd sg13_lv_nmos w=0.3u l=0.15u ng=1 m=1 mm_ok=1
XM6 3 cRef 4 gnd sg13_lv_nmos w=0.6u l=0.15u ng=1 m=1 mm_ok=1
XM7 3 UP 4 gnd sg13_lv_nmos w=0.6u l=0.15u ng=1 m=1 mm_ok=1
XM8 4 cVco gnd gnd sg13_lv_nmos w=0.3u l=0.15u ng=1 m=1 mm_ok=1
XM4 1 cRef vp vp sg13_lv_pmos w=0.6u l=0.15u ng=1 m=1 mm_ok=1
XM5 1 cRef pre_up gnd sg13_lv_nmos w=0.6u l=0.15u ng=1 m=1 mm_ok=1
XM9 3 cVco vp vp sg13_lv_pmos w=0.6u l=0.15u ng=1 m=1 mm_ok=1
XM10 3 cVco pre_down gnd sg13_lv_nmos w=0.6u l=0.15u ng=1 m=1 mm_ok=1
C2 4 gnd 250f
C1 2 gnd 250f
XM11 pre_down net2 gnd gnd sg13_lv_nmos w=0.6u l=0.15u ng=1 m=1 mm_ok=1
XM12 pre_up net1 gnd gnd sg13_lv_nmos w=0.6u l=0.15u ng=1 m=1 mm_ok=1
C3 1 gnd 250f
C4 3 gnd 250f
*  x3 -  inverter_x4  IS MISSING !!!!
*  x4 -  inverter_x4  IS MISSING !!!!
*  x1 -  PFD_buffor  IS MISSING !!!!
*  x5 -  PFD_buffor  IS MISSING !!!!
.ends


* expanding   symbol:  /foss/designs/CHIP-PLL/schematics/charge_pump/charge_pump_cell.sym # of pins=5
** sym_path: /foss/designs/CHIP-PLL/schematics/charge_pump/charge_pump_cell.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/charge_pump/charge_pump_cell.sch
.subckt charge_pump_cell vp UP vout DN gd
*.iopin UP
*.iopin DN
*.iopin gd
*.iopin vp
*.opin vout
XM12 net1 net6 vp vp sg13_lv_pmos w=1u l=0.6u ng=1 m=1 mm_ok=1
XM3 net8 net15 vp vp sg13_lv_pmos w=1.6u l=0.6u ng=1 m=1 mm_ok=1
XM2 net5 net15 vp vp sg13_lv_pmos w=1.65u l=0.6u ng=1 m=1 mm_ok=1
XM7 net3 bias net5 vp sg13_lv_pmos w=1.6u l=0.6u ng=1 m=1 mm_ok=1
XM11 net9 UP vp vp sg13_lv_pmos w=1u l=0.6u ng=1 m=1 mm_ok=1
XM4 net9 UP gd gd sg13_lv_nmos w=1u l=0.6u ng=1 m=1 mm_ok=1
XM5 vout net9 net3 vp sg13_lv_pmos w=1u l=0.6u ng=1 m=1 mm_ok=1
XM13 vout DN net13 gd sg13_lv_nmos w=1u l=0.6u ng=1 m=1 mm_ok=1
XM14 net15 bias net8 vp sg13_lv_pmos w=1.6u l=0.6u ng=1 m=1 mm_ok=1
XM1 net15 bias net10 gd sg13_lv_nmos w=1.6u l=0.6u ng=1 m=1 mm_ok=1
XM17 net1 bias net2 gd sg13_lv_nmos w=4.8u l=0.6u ng=1 m=1 mm_ok=1
XM9 net2 net1 gd gd sg13_lv_nmos w=4.8u l=0.6u ng=1 m=1 mm_ok=1
XM10 net10 bias net7 gd sg13_lv_nmos w=1.6u l=0.6u ng=1 m=1 mm_ok=1
XM6 net7 net1 gd gd sg13_lv_nmos w=1.6u l=0.6u ng=1 m=1 mm_ok=1
XM8 net4 net1 gd gd sg13_lv_nmos w=1.6u l=0.6u ng=1 m=1 mm_ok=1
XM15 net13 bias net4 gd sg13_lv_nmos w=1.6u l=0.6u ng=1 m=1 mm_ok=1
x1 vp gd bias vbias
x2 vp net6 gd curr_source
.ends


* expanding   symbol:  /foss/designs/CHIP-PLL/schematics/charge_pump/vbias.sym # of pins=3
** sym_path: /foss/designs/CHIP-PLL/schematics/charge_pump/vbias.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/charge_pump/vbias.sch
.subckt vbias vp gd vbias
*.opin vbias
*.iopin gd
*.iopin vp
XM5 net1 iref vp vp sg13_lv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XM6 vbias net1 net2 gd sg13_lv_nmos w=3.6u l=0.6u ng=1 m=1 mm_ok=1
XM2 net2 net2 gd gd sg13_lv_nmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XM3 gd gd gd gd sg13_lv_nmos w=1.86u l=0.6u ng=1 m=1 mm_ok=1
XM7 vp vp vp vp sg13_lv_pmos w=1.375u l=0.6u ng=1 m=1 mm_ok=1
XR1 net1 vbias gd rppd w=1e-6 l=1.7e-6 m=1 b=0 mm_ok=1
x1 vp iref gd curr_source
.ends


* expanding   symbol:  /foss/designs/CHIP-PLL/schematics/charge_pump/curr_source.sym # of pins=3
** sym_path: /foss/designs/CHIP-PLL/schematics/charge_pump/curr_source.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/charge_pump/curr_source.sch
.subckt curr_source vp iref gd
*.iopin vp
*.iopin gd
*.opin iref
XM9 net3 net3 gd gd sg13_lv_nmos w=1u l=0.6u ng=1 m=1 mm_ok=1
XM4 iref iref vp vp sg13_lv_pmos w=1.4u l=0.6u ng=1 m=1 mm_ok=1
XM5 net2 iref vp vp sg13_lv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XM10 iref net2 net1 gd sg13_lv_nmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XM1 net2 net2 gd gd sg13_lv_nmos w=1.4u l=0.6u ng=1 m=1 mm_ok=1
XM3 vp vp net3 gd sg13_lv_nmos w=1u l=0.6u ng=1 m=1 mm_ok=1
XM6 vp net3 iref gd sg13_lv_nmos w=1u l=0.6u ng=1 m=1 mm_ok=1
XM2 gd gd gd gd sg13_lv_nmos w=0.4u l=0.6u ng=1 m=1 mm_ok=1
XR2 net1 gd gd rppd w=1e-6 l=1.7e-6 m=1 b=0 mm_ok=1
.ends

.GLOBAL GND
.end
