** sch_path: /foss/designs/CHIP-PLL/PFD/PFD_tb_withReset.sch
**.subckt PFD_tb_withReset
Vref CRef GND dc 0 ac 0 pulse(0 {Vp} {T/2} 10n 10n {T/2} {T})
Vco CVco GND dc 0 ac 0 pulse(1u {Vp} {dly} 10n 10n {T/2} {T})
Vp net1 GND dc {Vp}
C1 UP GND 5p
C2 DOWN GND 5p
x1 GND net1 Reset CRef UP DOWN CVco PFD_cell_withReset
Vref1 Reset GND dc 0 ac 0 PWL(0 {Vp} 10u {Vp} 10.001u 0)
**** begin user architecture code
 .lib cornerMOSlv.lib mos_ff



.temp=125
.param T = 31.25u
.param dly=30u
.param Vp=1.2
.control
save all
tran 25n 200u

meas tran pw_up avg v(UP) from=100u to=200u
meas tran pw_down avg v(DOWN) from=100u to=200u
plot v(pw_up) v(pw_down)
write PFD_tb.raw
.endc


**** end user architecture code
**.ends

* expanding   symbol:  PFD_cell_withReset.sym # of pins=7
** sym_path: /foss/designs/CHIP-PLL/PFD/PFD_cell_withReset.sym
** sch_path: /foss/designs/CHIP-PLL/PFD/PFD_cell_withReset.sch
.subckt PFD_cell_withReset gnd vp Reset cRef UP DOWN cVco
*.iopin gnd
*.iopin vp
*.iopin DOWN
*.iopin UP
*.ipin cRef
*.ipin cVco
*.ipin Reset
XM1 1 cVco 2 gnd sg13_lv_nmos w=0.6u l=0.15u ng=1
XM2 1 DOWN 2 gnd sg13_lv_nmos w=0.3u l=0.15u ng=1
XM3 2 cRef gnd gnd sg13_lv_nmos w=0.6u l=0.15u ng=1
XM6 3 cRef 4 gnd sg13_lv_nmos w=0.6u l=0.15u ng=1
XM7 3 UP 4 gnd sg13_lv_nmos w=0.3u l=0.15u ng=1
XM8 4 cVco gnd gnd sg13_lv_nmos w=0.6u l=0.15u ng=1
x1 gnd vp UP pre_up PFD_buffor
x2 gnd vp DOWN pre_down PFD_buffor
XM4 1 cRef vp vp sg13_lv_pmos w=0.9u l=0.15u ng=1
XM5 1 cRef pre_up gnd sg13_lv_nmos w=0.9u l=0.15u ng=1
XM9 3 cVco vp vp sg13_lv_pmos w=0.9u l=0.15u ng=1
XM10 3 cVco pre_down gnd sg13_lv_nmos w=0.9u l=0.15u ng=1
XM12 pre_down net2 gnd gnd sg13_lv_nmos w=0.6u l=0.15u ng=1
x3 cRef net1 vp gnd inverter_x4
x4 cVco net2 vp gnd inverter_x4
XM11 pre_up net1 gnd gnd sg13_lv_nmos w=0.6u l=0.15u ng=1
C2 3 gnd 250f
C1 1 gnd 250f
.ends


* expanding   symbol:  PFD_buffor.sym # of pins=4
** sym_path: /foss/designs/CHIP-PLL/PFD/PFD_buffor.sym
** sch_path: /foss/designs/CHIP-PLL/PFD/PFD_buffor.sch
.subckt PFD_buffor gnd vp out in
*.iopin gnd
*.iopin vp
*.ipin in
*.iopin out
XM1 out_stage1 in gnd gnd sg13_lv_nmos w=0.3u l=0.15u ng=1
XM4 out_stage1 in vp vp sg13_lv_pmos w=0.3u l=0.15u ng=1
XM2 out_stage2 out_stage1 gnd gnd sg13_lv_nmos w=0.6u l=0.15u ng=1
XM3 out_stage2 out_stage1 vp vp sg13_lv_pmos w=0.6u l=0.15u ng=1
XM5 out_stage3 out_stage2 gnd gnd sg13_lv_nmos w=0.9u l=0.15u ng=1
XM6 out_stage3 out_stage2 vp vp sg13_lv_pmos w=0.9u l=0.15u ng=1
XM7 out out_stage3 gnd gnd sg13_lv_nmos w=1.2u l=0.15u ng=1
XM8 out out_stage3 vp vp sg13_lv_pmos w=1.2u l=0.15u ng=1
.ends


* expanding   symbol:  /foss/designs/CHIP-PLL/divider/inverter_x4.sym # of pins=4
** sym_path: /foss/designs/CHIP-PLL/divider/inverter_x4.sym
** sch_path: /foss/designs/CHIP-PLL/divider/inverter_x4.sch
.subckt inverter_x4 IN OUT VP GND
*.ipin IN
*.iopin VP
*.opin OUT
*.iopin GND
XM1 OUT IN GND GND sg13_lv_nmos w=0.60u l=0.13u ng=1
XM2 OUT IN VP VP sg13_lv_pmos w=0.60u l=0.13u ng=1
.ends

.GLOBAL GND
.end
